US06555552B2
1-(Cyclopropoxy)-2-iodo-4-(trifluoromethoxy)benzene
1-(Vinyloxy)-2-iodo-4-(trifluoromethoxy)benzene (Description 11; 7.6 g, 23 mmol) and chloroiodomethane (5.4 mL, 74 mmol) were dissolved in 1,2-dichloroethane (40 mL) and cooled to 0° C. Diethyl zinc (3.8 mL, 36.8 mmol) was then added dropwise. The solution was allowed to warm to room temperature for 10 minutes, then cooled back to 0° C. when it was quenched with saturated aqueous ammonium chloride solution (50 mL). The suspension formed was extracted with 50% diethyl ether/hexane (2×100 mL) and the extracts dried (MgSO4). Concentration yielded a yellow oil which was purified by silica chromatography to give the title compound as a clear oil (5.84 g, 17 mmol).

reactant | 1-(Vinyloxy)-2-iodo-4-(trifluoromethoxy)benzene | 23 mmol, 7.6 g | C(=C)OC1=C(C=C(C=C1)OC(F)(F)F)I | C9H6F3IO2
reactant | chloroiodomethane | 74 mmol, 5.4 mL | ClCI | CH2ClI
reactant | Diethyl zinc | 36.8 mmol, 3.8 mL | C(C)[Zn]CC
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 1-(Cyclopropoxy)-2-iodo-4-(trifluoromethoxy)benzene | 17 mmol, 5.84 g | C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)I | C10H8F3IO2
